US06987114B1
1-(3-Methoxycarbonyl-2-furanylmethyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2-bromomethyl-3-methoxycarbonylfurane were reacted by the same way with the example 1 to obtain the titled compound (139 mg, yield: 33.7%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 2-bromomethyl-3-methoxycarbonylfurane | BrCC=1OC=CC1C(=O)OC | C7H7BrO3
product | 1-(3-Methoxycarbonyl-2-furanylmethyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 139 mg, yield: 33.7% | COC(=O)C1=C(OC=C1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C22H24N2O5S
